US07238808B2
5-Bromo-thiophene-2-sulfonic acid (2,6-dimethyl-pyridin-4-ylmethyl)-amide
To a stirred solution of commercially available 4-aminomethyl-2,6-dimethyl-pyridine [CAS-No. 324571–98–4 (0.24 g, 1.76 mmol) in THF (8 ml) was added at 0° C. (ice water bath) commercially available 5-bromo-thiophene-2-sulfonyl chloride (0.46 g, 1.76 mmol) dissolved in THF (8 ml) and triethylamine (0.27 ml, 1.94 mmol). The reaction mixture was stirred at room temperature for 16 h and evaporated. The crude product was further purified by flash chromatography (ethyl acetate/heptane) and crystallization from dichloromethane/hexane to yield the title compound (0.33 g, 52%) as a light red solid. MS (ISN) 359.0 [(M−H)−], mp 138° C.

reactant | 4-aminomethyl-2,6-dimethyl-pyridine | NCC1=CC(=NC(=C1)C)C | C8H12N2
reactant | 5-bromo-thiophene-2-sulfonyl chloride | 1.76 mmol, 0.46 g | BrC1=CC=C(S1)S(=O)(=O)Cl | C4H2BrClO2S2
reactant | triethylamine | 1.94 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | 5-Bromo-thiophene-2-sulfonic acid (2,6-dimethyl-pyridin-4-ylmethyl)-amide | 0.33 g, 52% | CC1=NC(=CC(=C1)CNS(=O)(=O)C=1SC(=CC1)Br)C | C12H13BrN2O2S2
